2105-03-25 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -no acute events overnight
   -pt still with high O2 requirements
   Allergies:
   Penicillins
   Hives;
   Aspirin
   Hives;
   Motrin (Oral) (Ibuprofen)
   Hives;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine
   Hives;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Zofran (Oral) (Ondansetron Hcl)
   Hives;
   Morphine
   Shortness of br
   Optiray 320 (Intraven) (Ioversol)
   Hives;
   Visipaque (Injection) (Iodixanol)
   Hives;
   Tramadol
   Unknown;
   Ketorolac
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Alteplase (TPA) - 0.5 mg/hour
   Heparin Sodium - 250 units/hour
   Other ICU medications:
   Hydralazine - [**2105-3-24**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-3-25**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 104 (96 - 118) bpm
   BP: 166/75(96) {125/60(77) - 185/92(112)} mmHg
   RR: 28 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,924 mL
                                                                  2,226 mL
   PO:
             TF:
   IVF:
                                                                  1,924 mL
                                                                  2,226 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    610 mL
   Urine:
                                                                    340 mL
                                                                    510 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,584 mL
                                                                  1,616 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ w/o
   rebound, mild guarding
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   371 K/uL
   8.7 g/dL
   217 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   138 mEq/L
   26.3 %
   15.4 K/uL
        [image002.jpg]
                             [**2105-3-24**]  06:20 PM
                             [**2105-3-24**]  08:54 PM
                             [**2105-3-24**]  11:51 PM
                             [**2105-3-25**]  03:02 AM
                             [**2105-3-25**]  05:37 AM
   WBC
   11.7
   15.4
   Hct
   26.5
   25.7
   26.3
   25.1
   26.3
   Plt
   384
   371
   Cr
   1.5
   1.4
   TropT
   0.02
   0.04
   Glucose
   215
   217
   Other labs: PT / PTT / INR:15.3/34.8/1.4, CK / CKMB /
   Troponin-T:175/3/0.04, Fibrinogen:249 mg/dL, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   40 year old woman with a history of type 1 diabetes, CAD, htn, s/p PE
   with IVC filter in place now found to have large IVC thrombosis
   transferred to MICU for observation s/p TPA by IR.
   .
   # IVC Thrombosis and Post-procedure mgmt: s/p TPA by IR with question
   of anaphylaxis.  Procedure complicated by tachycardia, hypoxemia.
   Transferred to ICU for monitoring.  Hypoxemia and tachycardia likely
   [**3-9**] to multiple small PE as a consequence of the procedure.  Possible
   aspiration PNA on CXR [**3-25**].  Low suspicion for MI by history and will
   continue to rule out with serial enzymes.  Lastly might represent CHF
   given e/o volume overload on exam and h/o diastolic dysfunction,
   however abnormalities on CXR appear unilateral.
   - 0.5mg/hr TPA on each side for total of 1.0mg/hr
   - 250 units heparin gtt per hour for each sheeth (total 500)
   - no other heparin products to be given
   - Avoid blood draws, arterial sticks or arterial lines
   - frequent neuro checks q2 hours for stroke
   - Coags and fibrinogen q3 hours, h/h q6 hours
   - If fibrinogen < 150, decrease by [**2-6**] and recheck in 1 hour.
   - If firbinogen < 100, stop TPA and call IR, can draw from sheaths as
   long as it is flushed with saline.
   - 40mg Prednisone 16, 8 and 2 hour pre-procedure - plan for 10am today
   - 150mg zantac 1 hour pre-procedure
   - 15mg PO benadryl 1 hour pre-procedure
   .
   #Hypoxemia: PE vs. aspiration vs. CHF vs obsesity hypoventilation and
   derecruitment in setting of procedure and sedation.  PE high-risk given
   clot burden and peri-procedure; aspiration/HAP given body habitus,
   leukocytosis and low grade fever;  CHF less likely given unilateral
   findings on CXR, BNP.
   - check ABG today
   - trial on venti-mask to assess O2 requirements
   - send sputum cxs
   - vanc/[**Last Name (un) **]/cipro for HAP/aspiration
   - if can obtain PIV access will perform CTA to investigate PE (would
   require more aggressive anticoagulation) and venogram to investigate
   status of IVC.  If only have PICC access will perform non-contrast CT
   (investigate pulmonary infiltrate) and venogram.
   .
   #Renal Failure: Baseline Cr 1.1.  Likely pre-renal complicated by ATN
   from contrast nephropathy.  Renal ultrasound without obstruction.
   - IVF's, mucomyst, bicarbonate pre-procedure
   - renal ultrasound without obstruction
   .
   #Hypertension: Has h/o HTN.  Received one dose of hydralazine [**3-24**] PM
   as low suspicion for MI, and beta-blockade in setting of PE may
   precipitate hypotension.
   - will add home regimen as BP tolerates
   .
   # RUQ abdominal pain: Likey due to diabetic gastroparesis and erosive
   gastritis
   - N/V/D fluctuating, pain slightly improved.
   - gastroparesis explains most symptoms, except diarrhea/fevers (has
   been afebrile)
   - will need gastric emptying study as outpt
   - treating with amitriptyline qhs for promotility. Will d/w GI re why
   not reglan or erythromycin.
   - continue promethazine and dilaudid prn
   - Gastritis - H. Pylori neg, treating with PPI daily
   .
   # UTI: Treated and resolved, follow Cr.
   .
   # Anemia: Continues to trend down and started on Fe replacement.
   Negative EGD.  Will need to trend hematocrit on TPA and heparin.
   - anemia panel c/w AOCD and [**Doctor First Name **] -> will start PO iron repletion.
   - RDW elevated - macrocytosis likely due to low retic count (? due to
   low iron vs poor BM function)
   - Pt unable to tolerate bowel prep now (nausea, renal failure), but if
   diarrhea or worsening anemia persists, will need colonoscopy
   .
   # CAD: Known non-obstructive CAD on recent cath. Normal recent ECHO and
   stress test. Given chest pain on presentation will cycle enzmes -> CEs
   negative.
   - no aspirin given allergy
   - continue statin
   - will add BP meds as tolerated
   .
   # Diabetes: Poorly controlled even while NPO.  Takes 100 units glargine
   qhs
   - HbA1C 10.8 [**11/2104**], 7.9 [**2105-3-19**]
   - start insulin gtt given poor control of BS
   - Diabetic diet
   .
   # Hypercoagulability: Appreciate heme-onc rec's, will check factor V
   leiden as per heme-onc.  Do not believe diagnosis of protein C
   deficiency is valid at this time.
   .
   # Hyperlipidemia: Tg 280, LDL 225, CHol 303
   - continue statin
   .
   # FEN: Diabetic diet,IVF, lytes prn
   # Access: PICC, 2 femoral sheaths, will attempt to get PIV access for
   CTA
   # PPx: heparin IV infusion, TPA, no other heparin products at this time
   -> will need to transition to long-term anticoagulation based on CTA
   results
   # Code: presumed FULL
   # Dispo: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-3-24**] 09:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2105-03-25 09:15:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued hypoxemia, essentially stable.
   Hypertension better controlled
   Says her dyspnea is improved
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Hives;
   Aspirin
   Hives;
   Motrin (Oral) (Ibuprofen)
   Hives;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine
   Hives;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Zofran (Oral) (Ondansetron Hcl)
   Hives;
   Morphine
   Shortness of br
   Optiray 320 (Intraven) (Ioversol)
   Hives;
   Visipaque (Injection) (Iodixanol)
   Hives;
   Tramadol
   Unknown;
   Ketorolac
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Alteplase (TPA) - 0.5 mg/hour
   Heparin Sodium - 250 units/hour
   Other ICU medications:
   Hydralazine - [**2105-3-24**] 06:30 PM
   Other medications:
   heparin, TPA, NAC, prednisone @ 40, Reglan, iron, PPI, SQI, statin,
   Klonopin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-3-25**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 102 (96 - 118) bpm
   BP: 138/59(79) {125/59(77) - 185/92(112)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,924 mL
                                                                  2,626 mL
   PO:
             TF:
   IVF:
                                                                  1,924 mL
                                                                  2,626 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    790 mL
   Urine:
                                                                    340 mL
                                                                    690 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,584 mL
                                                                  1,836 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), anterior exam; unable
   to examine posterior due to groin catheters
   Abdominal: Soft, Tender: continued discomfort with palpation
   Extremities: Right: 2+ edema, Left: 2+ edema
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   371 K/uL
   217 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   138 mEq/L
   26.3 %
   15.4 K/uL
        [image002.jpg]
                             [**2105-3-24**]  06:20 PM
                             [**2105-3-24**]  08:54 PM
                             [**2105-3-24**]  11:51 PM
                             [**2105-3-25**]  03:02 AM
                             [**2105-3-25**]  05:37 AM
   WBC
   11.7
   15.4
   Hct
   26.5
   25.7
   26.3
   25.1
   26.3
   Plt
   384
   371
   Cr
   1.5
   1.4
   TropT
   0.02
   0.04
   Glucose
   215
   217
   Other labs: PT / PTT / INR:15.3/34.8/1.4, CK / CKMB /
   Troponin-T:175/3/0.04, Differential-Neuts:89.3 %, Lymph:4.6 %, Mono:5.3
   %, Eos:0.6 %, Fibrinogen:249 mg/dL, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.8 mg/dL
   CXR today shows increased right base opacity and left base
   consolidation
   Assessment and Plan
   40-year-old woman with
          Marked deep venous thrombosis, including IVC filter clot
          Hypoxemia
          Acute renal failure
 improving
          Obesity and probable OSA
          Contrast allergy
   Etiology of hypoxemia is not totally clear.  CXR suggests pneumonia; PE
   is in DDx.  We will treat for HAP and check Cx.  Since she has known
   DVT (and therefore will be anticoagulated), we will only pursue CTA of
   chest if RV is dilated, since she is at higher-than-average risk for
   contrast-induced ARF.
   Tachycardia may be hypovolemic, PE, or pericardial.  Will check echo,
   EKG, and give fluid challenge.  Depending on echo findings and fluid
   response, will consider trial of beta blockade given possibility of
   ACS.  ASA/Plavix allergic.  Will discuss with IR when we can convert to
   IV heparin
   Diabetes
 begin insulin gtt
   DVT
 will discuss with IR duration of TPA and further management
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-3-24**] 09:17 PM
   Prophylaxis:
   DVT: Boots(on local heparin and TPA)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 min
   Patient is critically ill

2105-03-26 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2105-3-25**] 03:18 PM
 EKG - At [**2105-3-25**] 04:50 PM
 BLOOD CULTURED - At [**2105-3-25**] 05:00 PM
 TRANS ESOPHAGEAL ECHO - At [**2105-3-25**] 05:00 PM
   [**3-25**] Events:
   - renal recommended not to do CTA bc dye load, will get CT n/c chest in
   AM to eval PNA
   - patient around 6pm had chest pain, TWI in V1,2, cardiology notified,
   no MI, started heparin drip with weight based protocol
   - continuing to cycle enzymes
   - IR placed power PICC, now appropriately positioned
   Allergies:
   Penicillins
   Hives;
   Aspirin
   Hives;
   Motrin (Oral) (Ibuprofen)
   Hives;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine
   Hives;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Zofran (Oral) (Ondansetron Hcl)
   Hives;
   Morphine
   Shortness of br
   Optiray 320 (Intraven) (Ioversol)
   Hives;
   Visipaque (Injection) (Iodixanol)
   Hives;
   Tramadol
   Unknown;
   Ketorolac
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-3-25**] 08:10 PM
   Ciprofloxacin - [**2105-3-25**] 10:00 PM
   Aztreonam - [**2105-3-26**] 03:18 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Heparin Sodium - [**2105-3-26**] 12:53 AM
   Lorazepam (Ativan) - [**2105-3-26**] 03:17 AM
   Hydromorphone (Dilaudid) - [**2105-3-26**] 05:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-3-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 90 (85 - 119) bpm
   BP: 117/49(64) {108/40(55) - 161/74(91)} mmHg
   RR: 15 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,514 mL
                                                                  1,705 mL
   PO:
           TF:
   IVF:
                                                                  8,514 mL
                                                                  1,529 mL
   Blood products:
   175 mL
   Total out:
                                                                  1,910 mL
                                                                    280 mL
   Urine:
                                                                  1,760 mL
                                                                    280 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  6,604 mL
                                                                  1,425 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ w/o
   rebound, mild guarding
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   300 K/uL
   7.0 g/dL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   26 mg/dL
   110 mEq/L
   142 mEq/L
   20.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2105-3-24**]  06:20 PM
                             [**2105-3-24**]  08:54 PM
                             [**2105-3-24**]  11:51 PM
                             [**2105-3-25**]  03:02 AM
                             [**2105-3-25**]  05:37 AM
                             [**2105-3-25**]  09:34 AM
                             [**2105-3-25**]  09:38 AM
                             [**2105-3-25**]  04:44 PM
                             [**2105-3-25**]  09:19 PM
                             [**2105-3-26**]  02:16 AM
   WBC
   11.7
   15.4
   16.0
   13.6
   12.3
   10.4
   Hct
   26.5
   25.7
   26.3
   25.1
   26.3
   24.0
   23.5
   20.2
   Plt
   384
   371
   375
   [**Telephone/Fax (3) 4733**]
   Cr
   1.5
   1.4
   1.5
   TropT
   0.02
   0.04
   0.02
   0.03
   0.03
   0.02
   Glucose
   [**Telephone/Fax (3) 4734**]73
   114
   Other labs: PT / PTT / INR:16.2/35.0/1.4, CK / CKMB /
   Troponin-T:185/2/0.02, ALT / AST:13/13, Alk Phos / T Bili:59/0.3,
   Amylase / Lipase:31/12, Differential-Neuts:79.2 %, Band:0.0 %,
   Lymph:12.9 %, Mono:7.0 %, Eos:0.5 %, Fibrinogen:220 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:566 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   40 year old woman with a history of type 1 diabetes, CAD, htn, s/p PE
   with IVC filter in place now found to have large IVC thrombosis
   transferred to MICU for observation s/p TPA by IR.
   .
   # IVC Thrombosis and Post-procedure mgmt: s/p TPA by IR with question
   of anaphylaxis.  Procedure complicated by tachycardia, hypoxemia.
   Transferred to ICU for monitoring.  Hypoxemia and tachycardia likely
   [**3-9**] to multiple small PE as a consequence of the procedure.  Possible
   aspiration PNA on CXR [**3-25**].  Low suspicion for MI by history and will
   continue to rule out with serial enzymes.  Lastly might represent CHF
   given e/o volume overload on exam and h/o diastolic dysfunction,
   however abnormalities on CXR appear unilateral.
   - 0.5mg/hr TPA on each side for total of 1.0mg/hr
   - 250 units heparin gtt per hour for each sheeth (total 500)
   - no other heparin products to be given
   - Avoid blood draws, arterial sticks or arterial lines
   - frequent neuro checks q2 hours for stroke
   - Coags and fibrinogen q3 hours, h/h q6 hours
   - If fibrinogen < 150, decrease by [**2-6**] and recheck in 1 hour.
   - If firbinogen < 100, stop TPA and call IR, can draw from sheaths as
   long as it is flushed with saline.
   - 40mg Prednisone 16, 8 and 2 hour pre-procedure - plan for 10am today
   - 150mg zantac 1 hour pre-procedure
   - 15mg PO benadryl 1 hour pre-procedure
   .
   #Hypoxemia: PE vs. aspiration vs. CHF vs obsesity hypoventilation and
   derecruitment in setting of procedure and sedation.  PE high-risk given
   clot burden and peri-procedure; aspiration/HAP given body habitus,
   leukocytosis and low grade fever;  CHF less likely given unilateral
   findings on CXR, BNP.
   - check ABG today
   - trial on venti-mask to assess O2 requirements
   - send sputum cxs
   - vanc/[**Last Name (un) **]/cipro for HAP/aspiration
   - if can obtain PIV access will perform CTA to investigate PE (would
   require more aggressive anticoagulation) and venogram to investigate
   status of IVC.  If only have PICC access will perform non-contrast CT
   (investigate pulmonary infiltrate) and venogram.
   .
   #Renal Failure: Baseline Cr 1.1.  Likely pre-renal complicated by ATN
   from contrast nephropathy.  Renal ultrasound without obstruction.
   - IVF's, mucomyst, bicarbonate pre-procedure
   - renal ultrasound without obstruction
   .
   #Hypertension: Has h/o HTN.  Received one dose of hydralazine [**3-24**] PM
   as low suspicion for MI, and beta-blockade in setting of PE may
   precipitate hypotension.
   - will add home regimen as BP tolerates
   .
   # RUQ abdominal pain: Likey due to diabetic gastroparesis and erosive
   gastritis
   - N/V/D fluctuating, pain slightly improved.
   - gastroparesis explains most symptoms, except diarrhea/fevers (has
   been afebrile)
   - will need gastric emptying study as outpt
   - treating with amitriptyline qhs for promotility. Will d/w GI re why
   not reglan or erythromycin.
   - continue promethazine and dilaudid prn
   - Gastritis - H. Pylori neg, treating with PPI daily
   .
   # UTI: Treated and resolved, follow Cr.
   .
   # Anemia: Continues to trend down and started on Fe replacement.
   Negative EGD.  Will need to trend hematocrit on TPA and heparin.
   - anemia panel c/w AOCD and [**Doctor First Name **] -> will start PO iron repletion.
   - RDW elevated - macrocytosis likely due to low retic count (? due to
   low iron vs poor BM function)
   - Pt unable to tolerate bowel prep now (nausea, renal failure), but if
   diarrhea or worsening anemia persists, will need colonoscopy
   .
   # CAD: Known non-obstructive CAD on recent cath. Normal recent ECHO and
   stress test. Given chest pain on presentation will cycle enzmes -> CEs
   negative.
   - no aspirin given allergy
   - continue statin
   - will add BP meds as tolerated
   .
   # Diabetes: Poorly controlled even while NPO.  Takes 100 units glargine
   qhs
   - HbA1C 10.8 [**11/2104**], 7.9 [**2105-3-19**]
   - start insulin gtt given poor control of BS
   - Diabetic diet
   .
   # Hypercoagulability: Appreciate heme-onc rec's, will check factor V
   leiden as per heme-onc.  Do not believe diagnosis of protein C
   deficiency is valid at this time.
   .
   # Hyperlipidemia: Tg 280, LDL 225, CHol 303
   - continue statin
   .
   # FEN: Diabetic diet,IVF, lytes prn
   # Access: PICC, 2 femoral sheaths, will attempt to get PIV access for
   CTA
   # PPx: heparin IV infusion, TPA, no other heparin products at this time
   -> will need to transition to long-term anticoagulation based on CTA
   results
   # Code: presumed FULL
   # Dispo: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-3-24**] 09:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2105-03-26 09:43:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued hypoxemia
   VBG pCO2 was reassuring
   Chest pain; EKG reviewed with cardiology
   Echo showed no RV dilation, no increase in pericardial effusion, and no
   LV regional wall motion abnormalities.
   PowerPICC placed
   TPA infusion catheters removed
   Therapeutically heparinized
   Hct fell
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Hives;
   Aspirin
   Hives;
   Motrin (Oral) (Ibuprofen)
   Hives;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine
   Hives;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Zofran (Oral) (Ondansetron Hcl)
   Hives;
   Morphine
   Shortness of br
   Optiray 320 (Intraven) (Ioversol)
   Hives;
   Visipaque (Injection) (Iodixanol)
   Hives;
   Tramadol
   Unknown;
   Ketorolac
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-3-25**] 10:00 PM
   Aztreonam - [**2105-3-26**] 03:18 AM
   Vancomycin - [**2105-3-26**] 08:40 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2105-3-26**] 05:32 AM
   Pantoprazole (Protonix) - [**2105-3-26**] 08:40 AM
   Heparin Sodium - [**2105-3-26**] 08:45 AM
   Lorazepam (Ativan) - [**2105-3-26**] 08:47 AM
   Other medications:
   reglan, iron, statin, cipro, aztreonam, vanco, insulin gtt, klonopin,
   ativan, PPI, heparin gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-3-26**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 92 (83 - 119) bpm
   BP: 118/45(62) {107/39(55) - 157/74(91)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,514 mL
                                                                  2,319 mL
   PO:
           TF:
   IVF:
                                                                  8,514 mL
                                                                  2,035 mL
   Blood products:
   284 mL
   Total out:
                                                                  1,910 mL
                                                                    380 mL
   Urine:
                                                                  1,760 mL
                                                                    380 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  6,604 mL
                                                                  1,939 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Soft, continued abdominal discomfort with palpation
   Extremities: Right: edema present, Left: edema present
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Groin sites intact, but difficult to evaluate given habitus
   Labs / Radiology
   7.0 g/dL
   300 K/uL
   114 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   26 mg/dL
   110 mEq/L
   142 mEq/L
   20.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2105-3-24**]  06:20 PM
                             [**2105-3-24**]  08:54 PM
                             [**2105-3-24**]  11:51 PM
                             [**2105-3-25**]  03:02 AM
                             [**2105-3-25**]  05:37 AM
                             [**2105-3-25**]  09:34 AM
                             [**2105-3-25**]  09:38 AM
                             [**2105-3-25**]  04:44 PM
                             [**2105-3-25**]  09:19 PM
                             [**2105-3-26**]  02:16 AM
   WBC
   11.7
   15.4
   16.0
   13.6
   12.3
   10.4
   Hct
   26.5
   25.7
   26.3
   25.1
   26.3
   24.0
   23.5
   20.2
   Plt
   384
   371
   375
   [**Telephone/Fax (3) 4733**]
   Cr
   1.5
   1.4
   1.5
   TropT
   0.02
   0.04
   0.02
   0.03
   0.03
   0.02
   Glucose
   [**Telephone/Fax (3) 4734**]73
   114
   Other labs: PT / PTT / INR:15.7/48.2/1.4, CK / CKMB /
   Troponin-T:185/2/0.02, ALT / AST:13/13, Alk Phos / T Bili:59/0.3,
   Amylase / Lipase:31/12, Differential-Neuts:79.2 %, Band:0.0 %,
   Lymph:12.9 %, Mono:7.0 %, Eos:0.5 %, Fibrinogen:220 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:566 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   40-year-old woman with
          Marked deep venous thrombosis, including IVC filter clot
          Hypoxemia
 improving somewhat
          Probable aspiration pneumonia (vs. pulmonary edema, though
   dought)
          Acute renal failure
 improving
          Obesity and probable OSA
          Contrast allergy
    Etiology of hypoxemia remains uncertain.  CXR suggests pneumonia; PE
   is in DDx.  We will complete a course of therapy for HAP x 8 days if
   unable to get cultures, and try to get sputum (none so far).  Since she
   has known DVT (and therefore will be anticoagulated), and RV is not
   dilated, we have held off on CTA, since she is at higher-than-average
   risk for contrast-induced ARF.
   Tachycardia appears to have been mostly hypovolemic based on response
   to fluids
   [image004.gif]
   Diabetes
 continue insulin gtt today
   Nausea/Vomiting
 as per ICU team note
   DVT
 now off of TPA, on therapeutic heparin
   Anemia
 fall is meaningful, and she is without obvious clinical
   bleeding.  Guaiac stools.  Given groin access, will CT abd and thighs.
   Other issues as per ICU team note today.
   ICU Care
   Nutrition: cautiously advance diet after CTs today
   Glycemic Control:
   Lines:
   PICC Line - [**2105-3-24**] 09:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2105-03-27 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2105-3-26**] 02:24 PM
   [**3-26**] Events:
   - had L thigh pain, no obvious cause at this time
   - CT scan negative for RP bleed
   - CT chest not done
   - IR recommended leaving catheters in for one more day in case they
   would look again tomorrow and do more TPA treatment
   - given lasix to see if respiratory status improved, had good urine
   output, then was able to be weaned from facemask to 6L NC overnight
   - vanco level 21.4; changed to 750 mg [**Hospital1 **] dosing
   - patient developed loose bowel movements
   Allergies:
   Penicillins
   Hives;
   Aspirin
   Hives;
   Motrin (Oral) (Ibuprofen)
   Hives;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine
   Hives;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Zofran (Oral) (Ondansetron Hcl)
   Hives;
   Morphine
   Shortness of br
   Optiray 320 (Intraven) (Ioversol)
   Hives;
   Visipaque (Injection) (Iodixanol)
   Hives;
   Tramadol
   Unknown;
   Ketorolac
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-3-26**] 10:42 PM
   Ciprofloxacin - [**2105-3-26**] 10:42 PM
   Aztreonam - [**2105-3-27**] 04:03 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-3-26**] 08:40 AM
   Furosemide (Lasix) - [**2105-3-26**] 06:15 PM
   Heparin Sodium - [**2105-3-26**] 11:13 PM
   Lorazepam (Ativan) - [**2105-3-27**] 03:03 AM
   Hydromorphone (Dilaudid) - [**2105-3-27**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-3-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 83 (83 - 115) bpm
   BP: 118/48(65) {104/44(61) - 158/77(101)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,003 mL
                                                                  1,047 mL
   PO:
             TF:
   IVF:
                                                                  4,719 mL
                                                                  1,047 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  4,470 mL
                                                                    770 mL
   Urine:
                                                                  4,470 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    533 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: pulses nl throughout
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ w/o
   rebound, mild guarding, no grey-[**Doctor Last Name 24**] or cullen
s signs
   Extremities: Right: 2+, Left: 2+, no evidence of fem hematoma
   Neurologic: Attentive, Follows commands, Responds to: Verbal stimuli,
   Labs / Radiology
   297 K/uL
   7.2 g/dL
   95 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   21.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2105-3-25**]  03:02 AM
                             [**2105-3-25**]  05:37 AM
                             [**2105-3-25**]  09:34 AM
                             [**2105-3-25**]  09:38 AM
                             [**2105-3-25**]  04:44 PM
                             [**2105-3-25**]  09:19 PM
                             [**2105-3-26**]  02:16 AM
                             [**2105-3-26**]  09:54 AM
                             [**2105-3-26**]  02:28 PM
                             [**2105-3-27**]  04:32 AM
   WBC
   15.4
   16.0
   13.6
   12.3
   10.4
   10.2
   11.1
   9.0
   Hct
   25.1
   26.3
   24.0
   23.5
   20.2
   22.1
   23.7
   21.0
   Plt
   371
   375
   313
   [**Telephone/Fax (3) 4748**]
   313
   297
   Cr
   1.4
   1.5
   1.4
   TropT
   0.04
   0.02
   0.03
   0.03
   0.02
   Glucose
   [**Telephone/Fax (3) 4749**]14
   95
   Other labs: PT / PTT / INR:15.7/70.4/1.4, CK / CKMB /
   Troponin-T:185/2/0.02, ALT / AST:13/13, Alk Phos / T Bili:59/0.3,
   Amylase / Lipase:31/12, Differential-Neuts:79.2 %, Band:0.0 %,
   Lymph:12.9 %, Mono:7.0 %, Eos:0.5 %, Fibrinogen:220 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:566 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   40 year old woman with a history of type 1 diabetes, CAD, htn, s/p PE
   with IVC filter in place now found to have large IVC thrombosis
   transferred to MICU for observation s/p TPA by IR.
   .
   # IVC Thrombosis: Patient is s/p TPA by IR with question of anaphylaxis
   manifested tachycardia and hypoxemia.  Hypoxemia and tachycardia likely
   [**3-9**] to multiple small PE as a consequence of the procedure vs possible
   aspiration PNA on CXR [**3-25**].  Low suspicion for MI by history ruled out
   with serial enzymes.  Stopped heparin ggt through fem catheters once
   power PICC placed. IR pulled fem cathethers on [**3-27**] after they
   determined patient would not benefit from additional TPA. Pan scan was
   done which did not show any hematoma or bleed.
   -          [**Hospital1 **] Hct
   -          - will perform venogram (holding for now given ARF
   .
   #Hypoxemia: PE vs. pulmonary infarct vs. aspiration vs obsesity
   hypoventilation and derecruitment in setting of procedure and
   sedation.  PE high-risk given clot burden and peri-procedure;
   aspiration/HAP given body habitus, leukocytosis and low grade fever;
   CHF less likely given unilateral findings on CXR, BNP. O2 requirements
   weaned to NC on [**3-27**]. Appears to be worsen in the setting of volume
   overload and pulmonary edema.
   - follow up cx
   - vanc/ Aztreonam /cipro for HAP/aspiration
   - check vanc level tonight
   .
   # Vol overload
 patient has 10L positive since admission and diffuse
   edema and pulmonary edema. Patient takes Lasix 80mg PO daily as
   outpatient and responded well to Lasix 40mg IV X1 overnight [**3-26**].
   -          giving Lasix 40mg IV BID
   #Renal Failure: Baseline Cr 1.1.  Likely pre-renal complicated by ATN
   from contrast nephropathy.  Renal ultrasound without obstruction.
   - Renal following, recs no dye load at this time, holding off on
   venogram for now
   - when okay with renal, will give prehydration protocol - IVF's,
   mucomyst, bicarbonate pre-procedure
   .
   # RUQ abdominal pain: Likey due to diabetic gastroparesis and erosive
   gastritis , H. Pylori neg.
   - N/V/D fluctuating, pain slightly improved.
   - gastroparesis explains most symptoms, except diarrhea/fevers (has
   been afebrile)
   - will need gastric emptying study as outpt
   - treating with amitriptyline qhs and reglan for promotility.
   - continue dilaudid prn  pain and ativan for nausea given allergy
   profile
   - Gastritis - treating with PPI daily
   .
   # Anemia: Concerning in the setting of heparin ggt and TPA
   administration and s/p multiple procedures. Pan scan negative, no fem
   hematoma or RP bleed.
   - anemia panel c/w AOCD and [**Doctor First Name **] -> will start PO iron repletion.
   - RDW elevated - macrocytosis likely due to low retic count (? due to
   low iron vs poor BM function)
   - since HCt 21 and possibility of bleeding and dropping Hct,
   transfusing 1u PRBC now
   .
   # CAD: Known non-obstructive CAD on recent cath. Normal recent ECHO and
   stress test. Given chest pain on presentation will cycle enzmes -> CEs
   negative. [**3-25**] EKG with TWI in V1 and V2. Cardiology shown EKG, no ACS.
   On heparin ggt for thrombosis. EKG changes resolved the following day
   and patient did not complain of further chest pain.
   - no aspirin given allergy
   - continue statin
   - will add BP meds as tolerated
   .
   # DM1:, needs basal insulin. Poorly controlled even while NPO.  Takes
   100 units glargine qhs, HbA1C 10.8 [**11/2104**], 7.9 [**2105-3-19**]
   Sugars continued to be in 100-150 range while on insulin ggt and
   .
   # Diarrhea
 in the setting of prolonged hospitalization stay
   -          stopping bowel regimen and sending c diff, no precautions
   since low prob
   # Hypercoagulability: Appreciate heme-onc rec's, will check factor V
   leiden as per heme-onc.  Do not believe diagnosis of protein C
   deficiency is valid at this time.
   #Hypertension: Has h/o HTN.  Received one dose of hydralazine [**3-24**] PM
   as low suspicion for MI, and beta-blockade in setting of PE may
   precipitate hypotension.
   - will add home regimen as BP tolerates
   .
   # treated UTI: Treated and resolved.
   # Hyperlipidemia: Tg 280, LDL 225, CHol 303
   - continue statin
   .
   # FEN: Diabetic diet, lytes prn
   # Access: power PICC, 2 femoral sheaths pulled [**3-26**] (atropine at
   bedside during pull in case of vagal response)
   # PPx: heparin ggt for thrombosis, PPI, bowel regimen
   # Code: FULL
   # Dispo: called out
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-3-24**] 09:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: